data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_514784_0,[C:1](/[C:4](=[C:2](\[N:3]([H:9])[H:10])[N:7]=[C:5]([H:14])[H:15])[H:13])([O:6][H:8])([H:11])[H:12]>>[C:1](/[C:2]([N:3]([H:9])[H:10])=[C:4](/[N:7]=[C:5]([H:14])[H:15])[H:13])([O:6][H:8])([H:11])[H:12],70.08359250001106
MR_11304_0,[C:1]([O:6][C:3]1([H:7])[C:2](=[C:4]([H:11])[H:12])[C:5]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([O:6][C:2]([C:3](=[C:5]([H:13])[H:14])[H:7])=[C:4]([H:11])[H:12])([H:8])([H:9])[H:10],69.22642749999937
MR_1471_1,[C:1](/[N:4]=[C:5](\[C:2]([H:13])([H:14])[H:15])[N:8]([C:6]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:4](/[C:5]([C:2]([H:13])([H:14])[H:15])=[N:8]/[H:9])[C:6]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([H:10])([H:11])[H:12],56.49633500000178
MR_24701_1,[C:1]([C:2](=[C:3]([H:10])[H:11])[O:4][H:6])([O:5][H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([O:5][H:7])([H:10])[H:11])[O:4][H:6])([H:8])[H:9],69.24148749999702
MR_1774_0,[C:1](/[C:2](=[C:3](/[O:7][H:8])[H:9])[O:6][C:4](=[C:5]([H:14])[H:15])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3](=[O:7])[H:9])([C:4](=[C:5]([H:14])[H:15])[H:10])[O:6][H:8])([H:11])([H:12])[H:13],54.39923000001741
MR_535199_0,[C:1]([N:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[N:5]([H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([N:7](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:3]/[O:6][H:8])[N:5]([H:9])[H:10])([H:11])([H:12])[H:13],62.733057500021374
MR_529533_1,[C:1]([C:2]([C:5](=[O:9])[H:16])([H:14])[H:15])([C:3]([N:4]([H:12])[H:13])=[O:8])([O:6][H:10])[O:7][H:11]>>[C:1]([C:2]([C:5]([C:3]([N:4]([H:12])[H:13])=[O:8])([O:9][H:11])[H:16])([H:14])[H:15])([O:6][H:10])=[O:7],51.44496000002136
MR_210686_1,[C@@:1]([C:2]([O:8][H:10])([H:11])[H:12])([C:4]([H:16])([H:17])[H:18])([O:5][O:6][C:3]([H:13])([H:14])[H:15])[O:7][H:9]>>[C@:1]([C:4]([H:16])([H:17])[H:18])([O:5][C:2]([O:8][H:10])([H:11])[H:12])([O:6][C:3]([H:13])([H:14])[H:15])[O:7][H:9],52.26447500002109
MR_400149_1,[C:1](/[C:3]([N:2]([O:5][H:7])[H:8])=[N:6]\[N:4]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([O:5][H:7])[N:2]([H:8])[N:6]1[N:4]([H:9])[H:10])([H:11])([H:12])[H:13],43.40166499999725
MR_343367_1,[C:1]([C:3]([N:2]([N:4]([H:10])[H:11])/[C:5](=[C:6](/[O:7][H:9])[H:13])[H:12])=[O:8])([H:14])([H:15])[H:16]>>[C:1]([C:3]([C@:6](/[C:5](=[N:2]\[N:4]([H:10])[H:11])[H:12])([O:7][H:9])[H:13])=[O:8])([H:14])([H:15])[H:16],53.192547500032106
MR_537802_0,[C:1](/[C:2](=[C:5](\[N:3]([H:8])[H:9])[H:12])[O:6]/[C:4](=[N:7]/[H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C:5]([N:3]([H:8])[H:9])(/[C:4](=[N:7]/[H:10])[H:11])[H:12])=[O:6])([H:13])([H:14])[H:15],56.25913999999426
MR_105088_1,[C:1](/[C:4](=[C:3]([N:5]([H:10])[H:11])\[N:8]=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([O:7][H:9])[C:3]([N:5]([H:10])[H:11])=[N:8][C:6]1([C:2]([H:16])([H:17])[H:18])[H:12])([H:13])([H:14])[H:15],33.134510000023454
MR_120649_0,[C:1]([N:2]([O:6]/[C:3]([N:5]([H:11])[H:12])=[N:7]/[N:4]([H:9])[H:10])[H:8])([H:13])([H:14])[H:15]>>[C:1]([N:2]([N:7]([C:3]([N:5]([H:11])[H:12])=[O:6])[N:4]([H:9])[H:10])[H:8])([H:13])([H:14])[H:15],38.904372500009
MR_576385_2,[C:1]1([N:5]([H:11])[H:12])([H:10])[C:4](=[C:7]([H:17])[H:18])[C:6]1([C:8]([C:3]([C:2]([H:14])([H:15])[H:16])=[O:9])([H:19])[H:20])[H:13]>>[C:1]([C:3]([C:2]([H:14])([H:15])[H:16])=[O:9])([C:4]([C:6](=[C:8]([H:19])[H:20])[H:13])=[C:7]([H:17])[H:18])([N:5]([H:11])[H:12])[H:10],54.75941499996409
MR_378262_2,[C:1]([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([N:6]([C:7]([O:8][H:10])=[O:9])[H:11])[H:12]>>[C:1]([C:4]([H:19])([H:20])[H:21])([N:6]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[H:11])([C:7]([O:8][H:10])=[O:9])[H:12],58.0537899999932
MR_303937_0,[C:1]([c:4]1[n:2]([H:10])[c:3](=[O:8])[o:6][c:5]1[H:11])([O:7][H:9])([H:12])[H:13]>>[C:1]([C:4]1([C:5](=[O:6])[H:11])[N:2]([H:10])[C:3]1=[O:8])([O:7][H:9])([H:12])[H:13],57.67728999994503
MR_665854_0,[C:1]([N:3](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]/[H:10])/[N:7]=[C:5](/[O:6][H:9])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[N:7]/[C:5](/[C:4]([C:2]([H:15])([H:16])[H:17])=[N:8]/[H:10])([O:6][H:9])[H:11])([H:12])([H:13])[H:14],67.53280500003072
MR_138692_0,[C:1]([C:4]([C:2]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])([O:6][N:3]([H:7])[H:8])([H:9])[H:10]>>[C:1](=[C:4]([C:2]([H:11])([H:12])[H:13])[C:5]([O:6][N:3]([H:7])[H:8])([H:14])[H:15])([H:9])[H:10],48.95817749998642
MR_56152_1,[C:1]([C:3]12[C:5]([H:10])=[C:2]([N:4]([H:8])[H:9])[N:7]1[O:6]2)([H:11])([H:12])[H:13]>>[C:1]([c:3]1[c:5]([H:10])[c:2]([N:4]([H:8])[H:9])[n:7][o:6]1)([H:11])([H:12])[H:13],18.42089000000442
MR_302333_0,[c:1]1([O:6][H:8])[c:4]([H:11])[c:2]([N:3]([H:9])[H:10])[n:7][o:5]1>>[C@:1]12([O:6][H:8])[C:4]([H:11])=[C:2]([N:3]([H:9])[H:10])[N:7]1[O:5]2,71.49797750000701
